US04082843
Methyl 3-(2,3-dihydroxybenzoyl)propionate was treated with boroacetic anhydride in acetic anhydride on a steam bath for 20 minutes and the mixture was poured into water and stirred for 2 hours to give methyl 3-(3-acetoxy-2-hydroxybenzoyl)-propionate.

reactant | Methyl 3-(2,3-dihydroxybenzoyl)propionate | OC1=C(C(=O)CCC(=O)OC)C=CC=C1O | C11H12O5
reactant | water | O | H2O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 3-(3-acetoxy-2-hydroxybenzoyl)-propionate | C(C)(=O)OC=1C(=C(C(=O)CCC(=O)OC)C=CC1)O | C13H14O6
